US07342029B2
N-(1-Carbamoyl-3-phenylpropyl)-2,3-diphenyl-1H-indole-5-carboxamide
0.16 g (0.5 mmol) of 2,3-diphenyl-1H-indole-5-carboxylic acid (see process variant A) was dissolved at RT in 10 ml of dry dimethylformamide (DMF) and admixed successively with 0.11 g (0.5 mmol) of L-homophenyl-alaninamide hydrochloride, 0.16 g of TOTU (O-[(cyano(ethoxycarbonyl)-methylidene)amino-1,1,3,3-tetramethyl]uronium tetrafluoroborate) and 0.14 ml (1 mmol) of diisopropylamine. The reaction mixture was stirred at RT for 6 h and then concentrated under reduced pressure, and the residue was dissolved in ethyl acetate. The organic phase was washed successively with water, saturated sodium carbonate solution, water and saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated under reduced pressure. This gave N-(1-carbamoyl-3-phenylpropyl)-2,3-diphenyl-1H-indole-5-carboxamide of melting point 120° C. to 125° C.

reactant | 2,3-diphenyl-1H-indole-5-carboxylic acid | 0.5 mmol, 0.16 g | C1(=CC=CC=C1)C=1NC2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)O | C21H15NO2
reactant | L-homophenyl-alaninamide hydrochloride | 0.5 mmol, 0.11 g | Cl.N[C@@H](CCC1=CC=CC=C1)C(=O)N
reactant | diisopropylamine | 1 mmol, 0.14 ml | C(C)(C)NC(C)C | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(1-Carbamoyl-3-phenylpropyl)-2,3-diphenyl-1H-indole-5-carboxamide | C(N)(=O)C(CCC1=CC=CC=C1)NC(=O)C=1C=C2C(=C(NC2=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C31H27N3O2
